US06939885B2
Synthesis of 4-Acetyl-N-[4-chloro-2-(2-methyl-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide
The title compound was prepared according to the general procedure for the synthesis of N-Aryl-benzenesulfonamides previously described using (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone and 4-acetyl-benzenesulfonyl chloride and purified by HPLC. 1H NMR (CDCl3) δ 8.50 (d, J=4.8 Hz, 1H) 7.67-7.25 (m, 5H) 7.20-6.85 (m, 4H) 2.52 (s, 3H) 2.45 (s, 3H). MS: (ES) m/z=429.0 (M++1).

reactant | (2-Amino-5-chloro-phenyl)-(2-methyl-pyridin-4-yl)-methanone | NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C13H11ClN2O
reactant | 4-acetyl-benzenesulfonyl chloride | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
product | 4-Acetyl-N-[4-chloro-2-(2-methyl-pyridine-4-carbonyl)-phenyl]-benzenesulfonamide | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)Cl)C(=O)C1=CC(=NC=C1)C | C21H17ClN2O4S
